* source I-NAND
.EXTERNAL INPUT IN
.EXTERNAL INPUT VDD
.EXTERNAL INPUT OUT
.EXTERNAL INPUT GND
M_M5         OUT IN VDD VDD CMOSP  
+ L=.18u  
+ W=.2u         
M_M6         OUT IN GND GND CMOSN  
+ L=.18u  
+ W=.18u         
